US03966916
Preparation of N(6)-(2-Hydroxyethyl)-N(6)-(2-methoxy-5-chlorobenzyl)-adenosine
5.7 g. 6-Chloro-9-(β-D-ribofuranosyl)-purine, 6 g. N-(2-hydroxyethyl)-2-methoxy-5-chlorobenzylamine and 2.5 g. triethylamine were heated under reflux for 2 hours in 100 ml. n-butanol. Subsequently, the solvent was removed in a vacuum and the residue taken up in 100 ml. chloroform. The chloroform phase was washed several times with water, initially with the addition of some dilute hydrochloric acid and thereafter with a dilute solution of sodium bicarbonate. From the so purified chloroform solution, there crystallized out 4.9 g. (53% of theory) N(6)-(2-hydroxyethyl)-N(6)-(2-methoxy-5-chlorobenzyl)-adenosine, which melted at 98°-100°C.

reactant | 6-Chloro-9-(β-D-ribofuranosyl)-purine | ClC1=C2N=CN(C2=NC=N1)[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO | C10H11ClN4O4
reactant | N-(2-hydroxyethyl)-2-methoxy-5-chlorobenzylamine | OCCNCC1=C(C=CC(=C1)Cl)OC | C10H14ClNO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | n-butanol | C(CCC)O | C4H10O
product | N(6)-(2-Hydroxyethyl)-N(6)-(2-methoxy-5-chlorobenzyl)-adenosine | OCCN(C=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1)CC1=C(C=CC(=C1)Cl)OC | C20H24ClN5O6
